US05849759
To 3,5-dinitro-1-carboxy-2-chlorobenzene (53 g) in acetonitrile (500 mL) and triethylamine (100 mL) was added benzylamine at 0° C. in a dropwise fashion. The reaction was allowed to warm to ambient temperature and stirred at ambient temperature for 1 hour. The solvent was removed under reduced pressure to afford the crude product, 3,5-dinitro-1-carboxy-2-(benzyl)aminobenzene. The product was dissolved in methanol/12N HCl (400 mL, 3:1, v/v), and was hydrogenated at 60 psi for 3 hours until H2 intake stopped. The solvent was removed under reduced pressure to afford the crude product, 2,3,5-triamino-1-carboxybenzene. To the product in pyridine (400 mL) was added isobutyric anhydride (200 mL), and the reaction mixture was stirred at ambient temperature for 14 hours. The solvent was removed under reduced pressure to afford the crude product, 2,3,5-tri(isopropylcarbonylamino)-1-carboxybenzene. The product was refluxed in methanol/12N HCl (500 mL, 4:1, v/v) for 16 hours to afford the desired product, 2-isopropyl-4-methoxycarbonyl-6-aminobenzimidazole, after removal of the solvents under reduced pressure.

reactant | 3,5-dinitro-1-carboxy-2-chlorobenzene | 53 g | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C(=O)O)Cl | C7H3ClN2O6
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
product | 3,5-dinitro-1-carboxy-2-(benzyl)aminobenzene | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C(=O)O)NCC1=CC=CC=C1 | C14H11N3O6
